US05569768
5-[2-(4,4-Dimethyloxazolin-2-yl)phenyl]-1-triisopropylsilylindole (1.48 mmoles, 661 mg) in 5 ml THF was treated at 0° C. with tetrabutylammonium fluoride (2.22 mmoles, 2.22 ml of 1.0N solution in THF). The solution was stirred for 3 hours, poured into 30 ml water, and extracted with ether. The organic layer was dried and concentrated. The oil was triturated with ether/hexane, and the solid was isolated by filtration. The reaction yielded 320 mg of 5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indole. (MS)

reactant | 5-[2-(4,4-Dimethyloxazolin-2-yl)phenyl]-1-triisopropylsilylindole | 1.48 mmoles, 661 mg | CC1(N=C(OC1)C1=C(C=CC=C1)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C | C28H38N2OSi
reactant | tetrabutylammonium fluoride | 2.22 mmoles, 1.0N, 2.22 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 30 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indole | 320 mg | CC1(N=C(OC1)C1=C(C=CC=C1)C=1C=C2C=CNC2=CC1)C | C19H18N2O
